US08975254B2
a) 3-nitro-5-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)picolinonitrile
To a solution of 5-bromo-3-nitropyridine-2-carbonitrile (2.00 g, 8.77 mmol) and 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (2.68 g, 9.65 mmol) in 10 ml of ethylene glycol dimethyl ether were added bis(triphenylphosphine)palladium(II) chloride (0.31 g; 0.44 mmol) and 9 ml of 2 M sodium carbonate-solution. The reaction mixture was heated at 50° C. for 2 h. Cooled reaction mixture was filtered, the solids were washed with water and dried in vacuum to give 2.77 g (105%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.50-1.66 (m, 3H), 1.81-2.04 (m, 2H), 2.29-2.47 (m, 1H), 3.66-3.79 (m, 1H), 3.97-4.07 (m, 1H), 5.37 (dd, 1H), 6.99 (d, 1H), 7.74 (d, 1H), 8.92 (s, 1H), 9.25 (s, 1H).

reactant | 5-bromo-3-nitropyridine-2-carbonitrile | 8.77 mmol, 2.00 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 9.65 mmol, 2.68 g | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
reactant | sodium carbonate | 2 M, 9 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 10 ml | COCCOC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.44 mmol, 0.31 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-nitro-5-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)picolinonitrile | 2.77 g, 105% | [N+](=O)([O-])C=1C(=NC=C(C1)C1=CC=NN1C1OCCCC1)C#N | C14H13N5O3
